US04802913
Methyl(3-phenylthiophenoxy)acetate (6.60 g) and methyl formate (30.78 g) were dissolved in DMF (30 ml) and added dropwise at 0° C. to sodium hydride (0.83 g, 50% dispersion in oil) in DMF. The reaction mixture was stirred at 0° C. for 45 minutes and then left at room temperature under nitrogen over the weekend. The reaction mixture was then poured into water (300 ml) and washed with diethyl ether (3×150 ml). The aqueous phase was adjusted to pH 7 with hydrochloric acid and then extracted with diethyl ether (3×100 ml). The combined organic extracts were washed successively with water (3×100 ml) and brine (2×75 ml) and then dried. Filtration and evaporation of the solvent under reduced pressure gave methyl 3-hydroxy-2-(3'-phenylthiophenoxy)propenoate (1.13 g) which was used without further purification.

reactant | Methyl(3-phenylthiophenoxy)acetate | 6.60 g | COC(CSC1=CC(=CC=C1)C1=CC=CC=C1)=O | C15H14O2S
reactant | methyl formate | 30.78 g | C(=O)OC | C2H4O2
reactant | sodium hydride | 0.83 g | [H-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | methyl 3-hydroxy-2-(3'-phenylthiophenoxy)propenoate | 1.13 g | OC=C(C(=O)OC)SC1=CC(=CC=C1)C1=CC=CC=C1 | C16H14O3S
